US08222416B2
To a suspension of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine (6.16 g, 24 mmol) in dry tetrahydrofuran (150 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (22.5 mL, 36 mmol) to a 0° C. solution of diisopropylamine (5.4 mL, 38 mmol) in dry tetrahydrofuran (20 mL)] dropwise. The mixture was stirred at −78° C. for 15 min and then treated with (tetrahydro-furan-2-yl)-acetaldehyde (4.9 g, 43 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×150 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 30% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-ethanol as a colorless oil (0.9 g, 31%): LC/MS m/e calcd for C19H20N2O4S [M+H]+ 373.45, observed 373.3.

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 24 mmol, 6.16 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2 | C13H10N2O2S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 36 mmol, 22.5 mL | CCCCCC | C6H14
reactant | diisopropylamine | 38 mmol, 5.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | (tetrahydro-furan-2-yl)-acetaldehyde | 43 mmol, 4.9 g | O1C(CCC1)CC=O | C6H10O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-ethanol | 0.9 g, 31% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2OCCC2)O | C19H20N2O4S
